### PR TITLE
feat: add linear logic tests/benchmark

### PR DESCRIPTION
**Pull request by arademaker**
For all logics that are likely to be implemented, it would be interesting to have a test suite that not only demonstrates how the definitions of syntax and semantics work, but also serves a didactic purpose through concrete instantiations of the logic.

In this PR, I suggest some initial tests for the linear logic already implemented in CSLib. In addition to tests for syntax and trivial equivalences, I present a proof of a linear logic theorem that I picked at random from https://arxiv.org/abs/1904.06850. From this PR onward, we can think about more systematic methods for constructing proof benchmarks.

```
@article{Olarte_2019,
   title={The ILLTP Library for Intuitionistic Linear Logic},
   volume={292},
   ISSN={2075-2180},
   url={http://dx.doi.org/10.4204/EPTCS.292.7},
   DOI={10.4204/eptcs.292.7},
   journal={Electronic Proceedings in Theoretical Computer Science},
   publisher={Open Publishing Association},
   author={Olarte, Carlos and de Paiva, Valeria and Pimentel, Elaine and Reis, Giselle},
   year={2019},
   month=apr,
   pages={118–132}}
```

### CODE REVIEW

File: CslibTests/CLL.lean [hunk 1]
```diff
@@ -0,0 +1,243 @@
...
+
+Breaking down the formula:
+
+              A ⊸ B = A⫠ ⅋ B (linear implication)
+           !(A ⊸ B) = !(A⫠ ⅋ B)
+        (!(A ⊸ B))⫠ = ʔ((A⫠ ⅋ B)⫠) = ʔ(A ⊗ B⫠)
+       !(A ⊸ B) ⊸ B = (!(A ⊸ B))⫠ ⅋ B = ʔ(A ⊗ B⫠) ⅋ B
+ !A ⊸ B = (!A)⫠ ⅋ B = ʔA⫠ ⅋ B
+       B ⊸ (!A ⊸ B) = B⫠ ⅋ (ʔA⫠ ⅋ B) -/
+--/
```
[the remark this answers is not in the document]
Comment (arademaker) [reply CslibTests/CLL.lean]: done

File: CslibTests/CLL.lean [hunk 2]
```diff
@@ -0,0 +1,243 @@
...
+
+/-! # Tests for Classical Linear Logic
+
+This file contains tests for the CLL implementation in
+`Cslib.Logics.LinearLogic.CLL.Basic`.
+
+I use `Proposition Nat` as the concrete instantiation for atoms.
+-/
+
+open Cslib.CLL
```
[the remark this answers is not in the document]
Comment (arademaker) [reply CslibTests/CLL.lean:16]: Fixed

File: CslibTests/CLL.lean [hunk 3]
```diff
@@ -0,0 +1,218 @@
...
+
+         A ⊸ B = A⫠ ⅋ B (linear implication)
+      !(A ⊸ B) = !(A⫠ ⅋ B)
+   (!(A ⊸ B))⫠ = ʔ((A⫠ ⅋ B)⫠) = ʔ(A ⊗ B⫠)
+  !(A ⊸ B) ⊸ B = (!(A ⊸ B))⫠ ⅋ B = ʔ(A ⊗ B⫠) ⅋ B
+        !A ⊸ B = (!A)⫠ ⅋ B = ʔA⫠ ⅋ B
+  B ⊸ (!A ⊸ B) = B⫠ ⅋ (ʔA⫠ ⅋ B)
+-/
+example : ⇓({b⫠, (!(a ⊸ b) ⊸ b) ⊗ (b ⊸ (!a ⊸ b))} : Sequent Nat) := by
+  apply Proof.rwConclusion (Multiset.pair_comm ..)
```
Comment (chenson2018) [inline CslibTests/CLL.lean:203]: We try to follow the convention of not constructing data (non-propositions) with tactics, though it is very awkward for linear logic.

**Review by chenson2018 — COMMENTED** [review]
I think it is a good general idea to have these sorts of examples as a sanity check that we've correctly defined various logics and languages.

(Leaving approval to Fabrizio since he wrote this module)

File: CslibTests/CLL.lean (hunk 3 above)
Comment (arademaker) [reply CslibTests/CLL.lean:203]: Hi @chenson2018, I thought about that. The first version of the proof was a term-based proof. But the bottom-up approach to the tactics - at least in the case of LL - makes the proof much clearer. But I am open to respecting any decision.

Comment (chenson2018) [reply CslibTests/CLL.lean:203]: I completely agree that it is natural to write this way. I'm fine with leaving it this way for a test file. If it breaks for whatever reason, this is also interesting information and easily fixed.

**Review by fmontesi — APPROVED** [review]
LGTM, thanks!
